US09428469B2
N5-((5-chloropyridin-2-yl)methyl)-N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine (Compound 5)
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (70 mg, 287 μmol) and 5-chloro-2-formylpyridine (60 mg, 424 μmol) in MeOH (3 ml) was stirred at room temperature for one day and then at 45° C. for two days to give a suspension, cooled to −20° C. and was filtered to collect the solid. The solid was re-suspended in MeOH (5 ml), NaBH4 (163 mg, 4.3 mmol) was added in a few portions and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated. Crystallization from DCM afforded a white solid as desired product (96.6 mg, 90% yield). MS +m/z: 369 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | 5-chloro-2-formylpyridine | 424 μmol, 60 mg | ClC=1C=CC(=NC1)C=O | C6H4ClNO
reactant | NaBH4 | 4.3 mmol, 163 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | N5-((5-chloropyridin-2-yl)methyl)-N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | 96.6 mg, 90% yield | ClC=1C=CC(=NC1)CNC1=NC(=NN1)NC1=CC(=CC(=C1)Cl)Cl | C14H11Cl3N6
